US04435385
(h) BOC-Phe-(D)Trp-Lys(Z)-OH
26 ml 1 N NaOH are added to a suspension of 16 g BOC-Phe-(D)Trp-Lys(Z)-OMe in dioxane/H2O (8:2) and the reaction mixture stirred for 1.5 hrs. at room temperature. The obtained solution is diluted to ca. 500 ml by the addition of H2O and then concentrated under vacuum. The pH is adjusted to 1.5 to 2 by the addition, with stirring, of 1 N HCl, the precipitated product is filtered off, washed with H2O until neutral and dried to yield the title compound:

reactant | NaOH | 1 N, 26 ml | [OH-].[Na+]
reactant | BOC-Phe-(D)Trp-Lys(Z)-OMe | 16 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C40H49N5O8
reactant | H2O | O | H2O
solvent | dioxane H2O | O1CCOCC1.O
product | BOC-Phe-(D)Trp-Lys(Z)-OH | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C39H47N5O8
